US04066457
72.4 Grams 2-chloro-5-nitrobenzenesulfonic acid was added in portions to 134 ml pyrrolidine, while keeping the temperature below 65° C. After the addition, the reaction was heated at reflux temperature with stirring for 7 hours and allowed to stand overnight at room temperature. The reaction was poured into 800 ml ice water and the solution made strongly acidic with concentrated HCl until light yellow crystals separated. The product was filtered, washed with a little dilute HCl and the moist cake was recrystallized from about 800 ml water to give 70.7 grams 5-nitro-2-pyrrolidinylbenzenesulfonic acid. m.p. = 178°-179° C. The nitro compound was reduced catalytically in ethanol with 5% palladium on carbon catalyst to give 5-amino-2-pyrrolidinyl-benzenesulfonic acid. m.p. = 255°-256° C.

reactant | 2-chloro-5-nitrobenzenesulfonic acid | ClC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)O | C6H4ClNO5S
reactant | pyrrolidine | 134 ml | N1CCCC1 | C4H9N
reactant | HCl | Cl | ClH
product | 5-nitro-2-pyrrolidinylbenzenesulfonic acid | 70.7 grams | [N+](=O)([O-])C=1C=CC(=C(C1)S(=O)(=O)O)N1CCCC1 | C10H12N2O5S
